US08580968B2
A mixture of 6-bromo-2-chlorobenzo[d]thiazole (1.0 g, 4.0 mmol) and (S)-piperidin-3-ol hydrochloride (0.609 g, 4.43 mmol), and N,N-diisopropylethylamine (3.51 mL, 0.02012 mole) in N,N-dimethylformamide (2.0 mL) was heated to 150° C. under microwave irradiation for 15 minutes. The reaction mixture was transferred to a 100 mL round bottom flask (methanol rinse) and volatiles were removed under reduced pressure. The residue was partitioned between CHCl3 and saturated aqueous sodium carbonate. The organic layer was dried over MgSO4. Drying agent was removed by filtration and the filtrate was concentrated under reduced pressure. The crude material was purified by column chromatography on an Analogix IntelliFlash-280 (Analogix SF15-12 g, 100% CHCl3 to 60:40 CHCl3/ethyl acetate). Fractions containing product were combined and concentrated under reduced pressure to provide (S)-1-(6-bromobenzo[d]thiazol-2-yl)piperidin-3-ol.

reactant | 6-bromo-2-chlorobenzo[d]thiazole | 4.0 mmol, 1.0 g | BrC1=CC2=C(N=C(S2)Cl)C=C1 | C7H3BrClNS
reactant | (S)-piperidin-3-ol hydrochloride | 4.43 mmol, 0.609 g | Cl.N1C[C@H](CCC1)O
reactant | N,N-diisopropylethylamine | 0.02012 mole, 3.51 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | (S)-1-(6-bromobenzo[d]thiazol-2-yl)piperidin-3-ol | BrC1=CC2=C(N=C(S2)N2C[C@H](CCC2)O)C=C1 | C12H13BrN2OS
